US03932240
REACTING FERROCENE AND METHYL LEVULINATE IN THE PRESENCE OF AN ACID SUCH AS POLYPHOSPHORIC ACID AND A METHANOL-CYCLOHEXANE SOLVENT AT A TEMPERATURE OF FROM 76° TO 78°C to produce methyl 4, 4-diferrocenylpentanoate; and

reactant | FERROCENE | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | METHYL LEVULINATE | C(CCC(=O)C)(=O)OC | C6H10O3
solvent | METHANOL CYCLOHEXANE | CO.C1CCCCC1
product | methyl 4, 4-diferrocenylpentanoate | [C-]1(C=CC=C1)C(CCC(=O)OC)(C)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2].[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C16H18O2.2C5H5.2Fe/c1-16(12-11-15(17)18-2,13-7-3-4-8-13)14-9-5-6-10-14;2*1-2-4-5-3-1;;/h3-10H,11-12H2,1-2H3;2*1-5H;;/q-2;2*-1;2*+2
